US07105544B2
1-(4-CHLOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOPENTANECARBOXAMIDE
Example 31 was prepared from 1-(4-chlorophenyl)cyclopentanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.45–7.42 (m, 1H), 7.33–7.24 (m, 7H), 6.94 (d, 1H, J=7.1 Hz), 6.58–6.52 (m, 1H), 3.26 (q, 2H, J=6.1 Hz), 2.90 (d, 2H, J=10.8 Hz), 2.56–2.40 (m, 4H), 2.29 (t, 2H, J=6.3 Hz), 2.03–1.87 (m, 6H), 1.83–1.76 (m, 4H), 1.60 (dd, 4H, J=6.8, 4.6 Hz), 1.25 (d, 6H, J=6.8 Hz); ESMS m/e: 510.4 (M+H)+.

reactant | 1-(4-chlorophenyl)cyclopentanecarboxylic acid | ClC1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
product | 1-(4-CHLOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOPENTANECARBOXAMIDE | ClC1=CC=C(C=C1)C1(CCCC1)C(=O)NCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O | C30H40ClN3O2
